US05006520
In 100 ml of dimethylformamide were suspended 7.0 g of 1-(4-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine, 3.6 g of 3-dimethylaminopropylchloride and 3.7 g of potassium carbonate. The mixture was stirred at 100° C. for 4 hours. After the solvent was distilled off under reduced pressure, the residue was extracted with chloroform-water. The organic layer was concentrated, and the residue was purified by silica gel column chromatography (eluent: chloroform : methanol=20:1). Thereafter, by adding maleic acid, the purified product was converted into the salt. The obtained crude crystals were recrystallized from ethyl acetate to give 7.2 g of 1-[4-(3-dimethylaminopropoxy)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine·maleate, m.p. 133°-136° C.

reactant | 1-(4-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 7.0 g | OC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C18H13N3O
reactant | 3-dimethylaminopropylchloride | 3.6 g | CN(CCCCl)C | C5H12ClN
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[4-(3-dimethylaminopropoxy)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine·maleate | 7.2 g | CN(CCCOC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2)C.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C23H24N4O.C4H4O4/c1-26(2)16-7-17-28-20-13-11-19(12-14-20)27-23-21(10-6-15-24-23)22(25-27)18-8-4-3-5-9-18;5-3(6)1-2-4(7)8/h3-6,8-15H,7,16-17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
